US04029505
1-Nitroso-3-methylcyclohexane dimer was prepared as follows: Acetic anhydride (55 g) was added over a 30-minute period, to a solution of 12.2 ml of 90% hydrogen peroxide and one drop of concentrated sulfuric acid in 50 ml of methylene chloride, while the temperature was maintained at 0° C. This solution was then added slowly to 22.8 g of 3-methylcyclohexylamine in 75 ml of methylene chloride while the temperature was maintained at 15° C. After the addition of the peracetic acid solution was completed, the reaction mixture was allowed to warm to room temperature and stirred an additional 10 hours. The solution was extracted with 200 ml of water, 100 ml of cold 15% ammonium hydroxide, 100 ml of 10% sulfuric acid and 100 ml of water, and dried over anhydrous magnesium sulfate. The methylene chloride was removed by distillation to leave a pale blue solid. This solid was recrystallized from methanol-water to give 5.0 g of 1 -nitroso-3-methylcyclohexane dimer as a white solid, mp 81°-83° C. The structure was confirmed by IR, UV and NMR spectra.

reactant | Acetic anhydride | 55 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | hydrogen peroxide | 12.2 ml | OO | H2O2
reactant | 3-methylcyclohexylamine | 22.8 g | CC1CC(CCC1)N | C7H15N
reactant | peracetic acid | C(C)(=O)OO | C2H4O3
catalyst | sulfuric acid | one drop | S(O)(O)(=O)=O | H2O4S
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 75 ml | C(Cl)Cl | CH2Cl2
product | 1 -nitroso-3-methylcyclohexane | 5.0 g | N(=O)C1CC(CCC1)C | C7H13NO
